US07943639B2
7-(p-Chloro-benzenesulfonyl)-1-piperazin-1-yl-isoquinoline hydrochloride
A mixture of 4-[7-(p-chloro-phenylsulfanyl)-isoquinolin-1-yl]-piperazine-1-carboxylic acid tert-butyl ester (297 mg, 0.65 mmol), H2O2 (30% in water, 0.5 mL), trifluoroacetic acid (3 mL) was heated at 50° C., 2 h. The reaction was continued overnight at 35° C. A water solution of NaOH (1N) was added (pH=14), ethyl acetate was added and the organic phase was separated, dried (MgSO4), filtered. The filtrated was concentrated and the residue was purified by flash column chromatography (SiO2, dichloromethane:methanol 9.5:0.5→9.0:1.0) The free base was converted into hydrochloride by treatment with HCl in diethyl ether to obtained 70 mg of the title compound. 1H NMR (CH3OH-d4) δ 8.75-8.85 (m, 2H), 8.10-8.25 (m, 3H), 8.00-8.08 (m, 2H), 7.60-7.68 (m, 3H), 3.85-3.95 (m, 4H), 3.55-3.65 (m, 4H).

reactant | 4-[7-(p-chloro-phenylsulfanyl)-isoquinolin-1-yl]-piperazine-1-carboxylic acid tert-butyl ester | 0.65 mmol, 297 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=CC2=CC=C(C=C12)SC1=CC=C(C=C1)Cl | C24H26ClN3O2S
reactant | H2O2 | 0.5 mL | OO | H2O2
reactant | trifluoroacetic acid | 3 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | NaOH | 1N | [OH-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 7-(p-Chloro-benzenesulfonyl)-1-piperazin-1-yl-isoquinoline hydrochloride | 70 mg | Cl.ClC1=CC=C(C=C1)S(=O)(=O)C1=CC=C2C=CN=C(C2=C1)N1CCNCC1 | InChI=1S/C19H18ClN3O2S.ClH/c20-15-2-5-16(6-3-15)26(24,25)17-4-1-14-7-8-22-19(18(14)13-17)23-11-9-21-10-12-23;/h1-8,13,21H,9-12H2;1H
